US06414008B1
d) 2-Methoxymethylbenzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide
A suspension of 1.6 g (7.2 mmol) of 2-methoxymethylbenzothiazole-5-carboxylic acid in 60 ml dichloromethane was mixed with 1.6 ml (22 mmol) of thionyl chloride and refluxed for 1 hour. The solid dissolved after 20 minutes. After distillation of the liquid components, the crude product was taken up in dichloromethane twice more and each time the solvent was distilled off. The crude acid chloride thus obtained was taken up in 50 ml of tetrahydrofuran, added dropwise to a mixture of 1.4 g (7.2 mmol) of N-(2-ethoxycarbonylethyl)aniline and 3.0 ml (21 mmol) of triethylamine in 50 ml of tetrahydrofuran and stirred overnight at room temperature. Then the solvent was distilled off in vacuo, the residue was taken up in 30 ml of dichloromethane, this solution was washed with water, and dried with sodium sulfate. After distillation of the solvent and flash chromatography (silica gel; gradient: dichloromethane/ethanol 98.5:1.5 to 80:20), the desired compound was isolated as a brownish oil.

reactant | 2-methoxymethylbenzothiazole-5-carboxylic acid | 7.2 mmol, 1.6 g | COCC=1SC2=C(N1)C=C(C=C2)C(=O)O | C10H9NO3S
reactant | thionyl chloride | 22 mmol, 1.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-(2-ethoxycarbonylethyl)aniline | 7.2 mmol, 1.4 g | C(C)OC(=O)CCNC1=CC=CC=C1 | C11H15NO2
reactant | triethylamine | 21 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Methoxymethylbenzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)COC)C1)CCC(=O)OCC | C21H22N2O4S
